US06787534B2
Ethyl 7-Amino-2-chloroquinoline-4-carboxylate
To 25 g (231 mmol) of m-phenylenediamine was added 43 g (231 mmol) of diethyl oxaloacetate, followed by stirring at 160 degrees for 1 hour. After standing to cool, the crystals were washed with methanol. To a solution of the crystals (3.0 g, 13 mmol) in chloroform (30 ml) was added phosphorus oxychloride (3.6 ml), followed by heating under reflux for 1 hour. After standing to cool, the reaction mixture was poured onto ice water, basified with 1 N sodium hydroxide aqueous solution, and the resulting crystals were collected by filtration. The crystals were washed with tetrahydrofuran and the filtrate was evaporated, to give 4.85 g of the title compound.

reactant | m-phenylenediamine | 231 mmol, 25 g | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | diethyl oxaloacetate | 231 mmol, 43 g | CCOC(=O)CC(=O)C(=O)OCC | C8H12O5
reactant | phosphorus oxychloride | 3.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 7-Amino-2-chloroquinoline-4-carboxylate | 4.85 g | NC1=CC=C2C(=CC(=NC2=C1)Cl)C(=O)OCC | C12H11ClN2O2
